US03940434
600 mg of finely powdered potassium hydroxide are added to a suspension of 500 mg of crude 5-chloro-6-cyclohexyl-indane-1-aldoxime in 20 ml of ethylene glycol and the mixture is stirred for 3 hours at 190°C under nitrogen. It is then cooled to room temperature and the reaction mixture is partitioned between 50 ml of ether and 50 ml of water. The aqueous layer is twice washed with 50 ml of ether at a time. The organic phases are extracted with 50 ml of water and the aqueous phases are adjusted to pH 2 with concentrated hydrochloric acid and extracted twice, with 50 ml of methylene chloride at a time. The methylene chloride phases are washed until neutral, dried over sodium sulphate and evaporated to dryness in vacuo. Chromatography of the evaporation residue on 20 g of silica gel, with benzene/ethyl acetate/glacial acetic acid (80:20;1) as the eluting agent, yields pure 5-chloro-6-cyclohexyl-1-indanecarboxylic acid of melting point 140°-143°C (from petroleum ether).

reactant | potassium hydroxide | [OH-].[K+]
reactant | 5-chloro-6-cyclohexyl-indane-1-aldoxime | 500 mg | ClC=1C=C2CCC(C2=CC1C1CCCCC1)C=NO | C16H20ClNO
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | 5-chloro-6-cyclohexyl-1-indanecarboxylic acid | ClC=1C=C2CCC(C2=CC1C1CCCCC1)C(=O)O | C16H19ClO2
